US06355636B1
To 600 mg of 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile in 15 mL of absolute ethanol was added 500 mg of 3-chloro-4-fluoroaniline. After refluxing the reaction under an inert atmosphere for 2 hours, the reaction mixture was poured into a mixture of brine and saturated aqueous sodium bicarbonate and the resultant crystals were filtered and washed with water. The product was then recrystallized from chloroform/hexanes. Drying in vacuo yielded 765 mg (83%) of 4-(3-chloro-4-fluoro-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile as yellow needles: melting point 108-111° C.; mass spectrum (m/e): M+H 316.8.

reactant | 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 600 mg | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 3-chloro-4-fluoroaniline | 500 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 4-(3-chloro-4-fluoro-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 765 mg, 83% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
